US04863958
2-benzyl-4-hydroxy-3-methyl-5-propylbenzofuran
A mixture of 2-benzoyl-4-hydroxy-3-methyl-5-propylbenzofuran (1.2 g; 4mmoles), potassium hydroxide pellets (1.5 g; 28mmoles), ethylene glycol (25 ml) and 99% hydrazine (0.7 ml) was heated at 135°-155° C. for 3 hours. The mixture was cooled, acidified with 20% citric acid solution, extracted with ether, dried (Na2SO4), filtered, concentrated, and chromatographed to obtain 650 mg of the title compound as an oil which was crystallized from hexane.

reactant | 2-benzoyl-4-hydroxy-3-methyl-5-propylbenzofuran | 4mmoles, 1.2 g | C(C1=CC=CC=C1)(=O)C=1OC2=C(C1C)C(=C(C=C2)CCC)O | C19H18O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrazine | 0.7 ml | NN | H4N2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethylene glycol | 25 ml | C(CO)O | C2H6O2
product | 2-benzyl-4-hydroxy-3-methyl-5-propylbenzofuran | 650 mg | C(C1=CC=CC=C1)C=1OC2=C(C1C)C(=C(C=C2)CCC)O | C19H20O2
